US08258130B2
(Ref.: J. Org. Chem. 2002, 67, 6226-6227) 6-Azaindole (2.5 g, 21.25 mmol) is added to a stirred suspension of AlCl3 (11.3 g, 84.5 mmol) in CH2Cl2 (150 mL). After stirring at rt for 1 h, acetyl chloride (6.65 g, 84.5 mmol) is added drop wise and the resulting mixture is stirred for 18 h. The mixture is cooled to 0° C., quenched with MeOH (75 mL) and stirred for 1 h. Silica gel (40 mL), MeOH and DCM are added to the mixture, the solvents are removed under vacuum and the residue is purified by silica gel chromatography eluting with 10% MeOHl in DCM to afford 1-(1H-pyrrolo[2,3-c]pyridin-3-yl)-ethanone (1.52 g, 45%). MS: 161 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.20 (s, 1H), 8.95 (s, H), 7.82(d, 1H), 8.72 (d, 1H), 8.43 (d, 1-H), 2.64(s, 3H).

reactant | 6-Azaindole | 21.25 mmol, 2.5 g | N1C=CC2=CC=NC=C12 | C7H6N2
reactant | AlCl3 | 84.5 mmol, 11.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 84.5 mmol, 6.65 g | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-(1H-pyrrolo[2,3-c]pyridin-3-yl)-ethanone | 1.52 g, 45% | N1C=C(C=2C1=CN=CC2)C(C)=O | C9H8N2O
